US07816371B2
a. tert-Butyl 3-((5-nitro-1-oxoisoquinolin-2(1H)-yl)methyl)azetidine-1-carboxylate
Into a round bottom flask was combined 5-nitro-isochromen-1-one (0.5 g, 0.002 mol), tert-butyl 3-(aminomethyl)azetidine-1-carboxylate (0.975 g, 0.00523 mol), methanol (15 mL, 0.37 mol), and the mixture was heated at reflux for 2 hours. The mixture was cooled to room temperature. LC-MS showed that the starting material was completely consumed. Volatiles were removed and the resulting oil was purified by silica-gel twice in a methanol:methylene chloride (0-10%) gradient and in a EtoAc:Hexane(30-80%). A light yellow solid was obtained (0.56 g). m/z=360.0 (M+1).

reactant | 5-nitro-isochromen-1-one | 0.002 mol, 0.5 g | [N+](=O)([O-])C1=C2C=COC(C2=CC=C1)=O | C9H5NO4
reactant | tert-butyl 3-(aminomethyl)azetidine-1-carboxylate | 0.00523 mol, 0.975 g | NCC1CN(C1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | methanol | 0.37 mol, 15 mL | CO | CH4O
product | tert-Butyl 3-((5-nitro-1-oxoisoquinolin-2(1H)-yl)methyl)azetidine-1-carboxylate | [N+](=O)([O-])C1=C2C=CN(C(C2=CC=C1)=O)CC1CN(C1)C(=O)OC(C)(C)C | C18H21N3O5
